US05089635
After successive addition of 37.5 g of 2,2-dimethyl-propane-1,3-diol, 18,75 ml of ortho-formic acid trimethylester and 20 mg of p-toluene sulfonic acid, a solution of 25 g of 4-bromobenzaldehyde in 250 ml of dichloromethane is stirred for 24 hours at room temperature. To finish the compound it is poured into saturated, aqueous NaHCO3 solution and extracted with diethylether. Crystallization of the crude product from hexane yields 37.1 g of 4-(5,5-dimethyl-1-,3-dioxan-2-yl)-bromobenzene with a melting point of 62°-64° C.

reactant | 2,2-dimethyl-propane-1,3-diol | 37.5 g | CC(CO)(CO)C | C5H12O2
reactant | ortho-formic acid trimethylester | 18,75 ml | COC(OC)OC | C4H10O3
reactant | 4-bromobenzaldehyde | 25 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | p-toluene sulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(5,5-dimethyl-1-,3-dioxan-2-yl)-bromobenzene | 37.1 g | CC1(COC(OC1)C1=CC=C(C=C1)Br)C | C12H15BrO2
